US06579872B1
N-(5benzamido-2-methylphenyl)-3-(chloromethyl)benzamide
Triethylamine (2.0 ml) was added to a stirred mixture of N-(3-amino-4-methylphenyl)benzamide (3.0 g), 3-chloromethylbenzoyl chloride (2.76 g), 4-dimethylaminopyridine (0.162 g) and methylene chloride (50 ml) and the reaction mixture was stirred at ambient temperature for 16 hours. The mixture was evaporated and the residue was triturated under 2N aqueous hydrochloric acid solution. The solid so obtained was isolated, washed in turn with a saturated aqueous sodium bicarbonate solution, water and isohexane and dried under vacuum at 55° C. There was thus obtained the title compound (5.1 g); NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 4.85 (s, 2H), 7.23 (d, 1H), 7.55 (m, 5H), 7.66 (d, 1H), 7.84 (s, 1H), 7.95 (m, 3H), 8.05 (s, 1H), 9.96 (s, 1H), 10.22 (s, 1H); Mass Spectrum: M−H− 377.

reactant | Triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | N-(3-amino-4-methylphenyl)benzamide | 3.0 g | NC=1C=C(C=CC1C)NC(C1=CC=CC=C1)=O | C14H14N2O
reactant | 3-chloromethylbenzoyl chloride | 2.76 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
catalyst | 4-dimethylaminopyridine | 0.162 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(5benzamido-2-methylphenyl)-3-(chloromethyl)benzamide | 5.1 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(C1=CC(=CC=C1)CCl)=O)C | C22H19ClN2O2
